US08664220B2
Step 1: 1-{4′-[4-(2-Imino-5-phenyl-[1,3,4]oxadiazol-3-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 5-phenyl-[1,3,4]oxadiazol-2-ylamine.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 5-phenyl-[1,3,4]oxadiazol-2-ylamine | C1(=CC=CC=C1)C1=NN=C(O1)N | C8H7N3O
product | 1-{4′-[4-(2-Imino-5-phenyl-[1,3,4]oxadiazol-3-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1C(OC(=N1)C1=CC=CC=C1)=N | C31H28N4O4
